US05635510
61.6 Synthesis of 4-(3,4-dichloro-phenyl)-4-(3-hydroxy-propyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidine
Prepare according to the method of example 11.5 using 4-(3,4-dichloro-phenyl)-4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidine (3 mmol) and p-toluenesulfonic acid (200 mg). Chromatograph on silica gel to give the title compound.

reactant | 4-(3,4-dichloro-phenyl)-4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidine | 3 mmol | ClC=1C=C(C=CC1Cl)C1(CCN(C1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCOC1OCCCC1 | C28H35Cl2NO6
reactant | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-(3,4-dichloro-phenyl)-4-(3-hydroxy-propyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidine | ClC=1C=C(C=CC1Cl)C1(CCN(C1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCO | C23H27Cl2NO5
